US07732604B2
Synthesis of 2-({(3R)-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-yl}amino)ethanol
To a solution of tert-butyl {(3R)-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-yl}carbamate (300 mg, 0.672 mmol) in anhydrous DMF (2.0 ml) was added 95% NaH (25.4 mg, 1.01 mmol). After stirring at R.T. for 10 mins, to the reaction mixture was added iodoethanol (288.9 mg, 1.68 mmol). After stirring at 70° C. for 16 h, to the reaction mixture was added iodoethanol (288.9 mg, 1.68 mmol). After stirring at 90° C. for 7 h, 105° C. for 32 h, the reaction mixture was quenched with water and filtered. The eluent was extracted with 2:1 EtOAc:toluene (2×30 ml). The organic layer was dried with K2CO3, filtered and concentrated. The resulting residue was dissolved in CH2Cl2 (10 ml) and TFA (0.5 ml) and MeOH (1 pipet drop) were added. After stirring at R.T for 16 h, the reaction mixture was concentrated. The resulting residue was purified via reversed phase column eluted with 0.1% TFA CAN: water to give the desired product (1.6 mg).

reactant | tert-butyl {(3R)-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-yl}carbamate | 0.672 mmol, 300 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C23H26N8O2
reactant | NaH | 1.01 mmol, 25.4 mg | [H-].[Na+]
reactant | iodoethanol | 1.68 mmol, 288.9 mg | IC(C)O | C2H5IO
reactant | iodoethanol | 1.68 mmol, 288.9 mg | IC(C)O | C2H5IO
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | 2-({(3R)-1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-yl}amino)ethanol | 1.6 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)N2C[C@@H](CC2)NCCO | C20H22N8O
